US07622483B2
(R)-1-(3-Amino-4-benzyloxy-phenyl)-2-[benzyl-(5,6-diethyl-indan-2-yl)-amino]-ethanol
(R)-2-[Benzyl-(5,6-diethyl-indan-2-yl)-amino]-1-(4-benzyloxy-3-nitro-phenyl)-ethanol (3.00 g) is dissolved in THF (50 mL) and toluene (50 mL). A catalytic amount of PtO2 is added and the solution is stirred under an atmosphere of H2. The reaction is shown to be complete by TLC after 6 hours. The catalyst is filtered off and the solvent is removed in vacuo. The product is not purified further. TLC (silica, n-hexane/ethyl acetate 1:1 Rf=0.75).

reactant | (R)-2-[Benzyl-(5,6-diethyl-indan-2-yl)-amino]-1-(4-benzyloxy-3-nitro-phenyl)-ethanol | 3.00 g | C(C1=CC=CC=C1)N(C[C@H](O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-])C1CC2=CC(=C(C=C2C1)CC)CC | C35H38N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | PtO2 | O=[Pt]=O
product | (R)-1-(3-Amino-4-benzyloxy-phenyl)-2-[benzyl-(5,6-diethyl-indan-2-yl)-amino]-ethanol | NC=1C=C(C=CC1OCC1=CC=CC=C1)[C@H](CN(C1CC2=CC(=C(C=C2C1)CC)CC)CC1=CC=CC=C1)O | C35H40N2O2
